US06503949B1
5-Nitro-2-trifluoromethoxybenzoic acid methyl ester (5.69 g, 21.5 mmol) was dissolved in ethanol 99.9% (80 mL) and stannous (II) chloride dihydrate (24.2 g, 107 mmol) was added. The suspension was stirred on an oil-bath at 75° C. for 2 hours and concentrated in vacuo. Ethyl acetate (100 mL) and water (50 mL) was added and pH was adjusted to pH 8 with 4N sodium hydroxide (50 mL). The liquid was decanted from the precipitation. The precipitate was washed twice with ethyl acetate. The aqueous phase was extracted twice with ethyl acetate (60 mL). The combined organic phases were washed with a saturated sodium chloride solution (2×100 mL), dried (MgSO4) and concentrated in vacuo. Purification by column chromatography (120 g silica) using ethyl acetate and heptane (1:1) as eluent afforded 3.8 g of 5-amino-2-trifluoromethoxybenzoic acid methyl ester.

reactant | 5-Nitro-2-trifluoromethoxybenzoic acid methyl ester | 21.5 mmol, 5.69 g | COC(C1=C(C=CC(=C1)[N+](=O)[O-])OC(F)(F)F)=O | C9H6F3NO5
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 5-amino-2-trifluoromethoxybenzoic acid methyl ester | 3.8 g | COC(C1=C(C=CC(=C1)N)OC(F)(F)F)=O | C9H8F3NO3
